US05622976
To a solution of 3-[{2-(1-tert-butoxycarbonylpiperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole (2.5 g) in dioxane (30 ml) was added 4N hydrochloric acid in dioxane (13 ml) under ice cooling. After stirring for 5 hours at ambient temperature, the mixture was evaporated in vacuo. The residue was recrystallized from ethanol-ether to afford 3-[{2-(piperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole hydrochloride (1.71 g).

reactant | 3-[{2-(1-tert-butoxycarbonylpiperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole | 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC(=O)C1=NOC(=N1)C1=CC=C(C=C1)C#N | C22H27N5O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | 3-[{2-(piperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole hydrochloride | 1.71 g | Cl.N1CCC(CC1)CCNC(=O)C1=NOC(=N1)C1=CC=C(C=C1)C#N | InChI=1S/C17H19N5O2.ClH/c18-11-13-1-3-14(4-2-13)17-21-15(22-24-17)16(23)20-10-7-12-5-8-19-9-6-12;/h1-4,12,19H,5-10H2,(H,20,23);1H
